US06541505B1
3-(4-furan-2-yl-phenyl)-3-methyl-butan-1-ol.
To a cooled solution (0° C.) of 2-[4-(1,1-dimethyl-allyl)-phenyl]-furan (424 mg, 2 mmol) (reference example 51)in THF (4 mL) is added dropwise (1M)borane-THF complex (2.2 mL, 2.2 mmol) and the resulting mixture stirred for 1 hour. To the mixture is added 10% NaOH (1.5 mL) and 30 wt % H2O2 (1.5 mL) and stirred for 1 hour while allowing to warm to 20° C. The mixture is diluted with ether, washed with water and brine, dried over MgSO4 and concentrated. The residue is purified by flash chromatography (eluting with 25% ethyl acetate in hexanes) to give 341 mg of the title compound. 1H NMR (CDCl3) δ 1.34 (s, 6H), 1.40 (m, 1H), 1.94 (t, J=8 Hz, 2H), 3.48 (t, J=8 Hz, 2H), 6.45 (m, 1H), 6.60 (m, 1H), 7.35 (d, J=8 Hz, 2H), 7.44 (bs, 1H), 6.61 (d, J=8 Hz, 2H). MS (EI) m/z 230 (M+).

reactant | 2-[4-(1,1-dimethyl-allyl)-phenyl]-furan | 2 mmol, 424 mg | CC(C=C)(C)C1=CC=C(C=C1)C=1OC=CC1 | C15H16O
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1.5 mL | [OH-].[Na+]
reactant | H2O2 | 1.5 mL | OO | H2O2
solvent | ether | CCOCC | C4H10O
product | 3-(4-furan-2-yl-phenyl)-3-methyl-butan-1-ol | 341 mg | O1C(=CC=C1)C1=CC=C(C=C1)C(CCO)(C)C | C15H18O2
